US08604061B2
To a stirred, cooled suspension of 2-amino-2-phenyl-propionic acid (488 mg) at r.t. in THF (10 ml) under an argon atmosphere was added portionwise LiAlH4 (244 mg). The ice bath was removed and stirring at r.t. was then continued for 20 h. The mixture was cooled in an ice bath, diluted with 5 ml THF and H2O (0.23 ml), 4 N NaOH (0.23 ml) and H2O (0.92 ml) were added successively and carefully. After 30 min stirring at r.t., the mixture was filtered and the cake was washed with THF. The filtrate was concentrated. The crude product was purified by column chromatography (silica gel; gradient: CH2Cl2->CH2Cl2/MeOH 9:1) to give 2-amino-2-phenyl-propan-1-ol (266 mg) as colorless viscous oil. MS (ISP): 152.3 ([M+H]+)

reactant | 2-amino-2-phenyl-propionic acid | 488 mg | NC(C(=O)O)(C)C1=CC=CC=C1 | C9H11NO2
reactant | LiAlH4 | 244 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-amino-2-phenyl-propan-1-ol | 266 mg | NC(CO)(C)C1=CC=CC=C1 | C9H13NO
